US06194425B1
Using the general method of Example 76, 4-chloro-3-nitro[1,5]naphthyridine (5.0 g, 24 mmol) was reacted with 2-phenoxyethylamine (3.5 mL, 27 mmol) to provide 6.6 g of N4-(2-phenoxyethyl)-3-nitro[1,5]naphthyridin-4-amine as a yellow solid, m.p. 107-108° C. Analysis: Calculated for C16H14N4O3: % C, 61.93; % H, 4.55; % N, 18.05; Found: % C, 61.99; % H, 4.58; % N, 18.42. 1H NMR (300 MHz, DMSO): δ 10.25 (broad s, 1H), 9.39 (broad s, 1H), 8.81 (dd, J=4.1,1.7 Hz, 1H), 8.25 (dd, J=8.5,1.7 Hz, 1H), 7.67 (dd, J=8.5,4.1 Hz, 1H), 7.34-7.26 (m, 2H), 7.01-6.96 (m, 3H), 4.89 (broad s, 2H), 4.35 (t, J=5.1 Hz, 2H); MS (EI): m/e 310.1065 (310.1065 calc'd for C16H14N4O3).

reactant | 4-chloro-3-nitro[1,5]naphthyridine | 24 mmol, 5.0 g | ClC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C8H4ClN3O2
reactant | 2-phenoxyethylamine | 27 mmol, 3.5 mL | O(C1=CC=CC=C1)CCN | C8H11NO
product | N4-(2-phenoxyethyl)-3-nitro[1,5]naphthyridin-4-amine | 6.6 g | O(C1=CC=CC=C1)CCNC1=C(C=NC2=CC=CN=C12)[N+](=O)[O-] | C16H14N4O3
